US08748436B2
(a) 2-(4-Methoxy-3,5-dimethyl-benzoylamino)-malonic acid diethyl ester
116.8 g of aminomalonic acid diethyl ester hydrochloride were dissolved in 700 ml of dichloromethane, and 231 ml of triethylamine were added with cooling in an ice bath. A solution of 109.6 g of 4-methoxy-3,5-dimethyl-benzoyl chloride in 400 ml of dichloromethane was slowly added dropwise. After 2 h at 0° C., 200 ml of water were added slowly. The phases were separated, and then the aqueous phase was extracted with 200 ml of dichloromethane twice. The combined organic phases were washed with 2 M hydrochloric acid and subsequently with water, dried with sodium sulfate, filtered and evaporated. The residue was treated with methyl tert-butyl ether, and then the resulting precipitate was isolated by filtration to give 178.7 g of the title compound.

reactant | aminomalonic acid diethyl ester hydrochloride | 116.8 g | Cl.C(C)OC(C(C(=O)OCC)N)=O
reactant | triethylamine | 231 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methoxy-3,5-dimethyl-benzoyl chloride | 109.6 g | COC1=C(C=C(C(=O)Cl)C=C1C)C | C10H11ClO2
reactant | water | 200 ml | O | H2O
solvent | dichloromethane | 700 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
product | 2-(4-Methoxy-3,5-dimethyl-benzoylamino)-malonic acid diethyl ester | 178.7 g | C(C)OC(C(C(=O)OCC)NC(C1=CC(=C(C(=C1)C)OC)C)=O)=O | C17H23NO6
